US07989633B2
5-Chloro-2,8-dimethyl-4H-chromen-4-one
0.42 g (3.9 mmol) of copper(II) chloride and 0.45 g (3.96 mmol) of tert-butyl nitrite are introduced into 20 ml of acetonitrile and heated to 65° C. 0.5 g (2.63 mmol) of 5-amino-2,8-dimethyl-4H-chromen-4-one in 10 ml of acetonitrile are slowly added dropwise to this suspension. The reaction mixture is stirred at 65° C. for 10 min and then allowed to cool to room temperature, and subsequently 5 ml of concentrated hydrochloric acid are added. After extraction with diethyl ether, the combined organic phases are washed with water and dried over sodium sulfate. After removal of the solvent in vacuo, the remaining crude product is purified by preparative HPLC. 0.27 g (50% of theory) of the title compound is obtained.

reactant | tert-butyl nitrite | 3.96 mmol, 0.45 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-amino-2,8-dimethyl-4H-chromen-4-one | 2.63 mmol, 0.5 g | NC1=C2C(C=C(OC2=C(C=C1)C)C)=O | C11H11NO2
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | copper(II) chloride | 3.9 mmol, 0.42 g | [Cu](Cl)Cl
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-Chloro-2,8-dimethyl-4H-chromen-4-one | ClC1=C2C(C=C(OC2=C(C=C1)C)C)=O | C11H9ClO2
